US04297516
1,2-Octadien-4-one
To a stirred solution of 0.50 moles of propargylmagnesium bromide in 340 ml. of ether at -78° C. is added a solution of 65.2 g. (0.50 moles) of ethyl valerate in 100 ml. of ether during 60 minutes. The solution is stirred at -78° C. for 30 minutes and then hydrolyzed by pouring onto a mixture of ice and ether. The ether layer is washed with brine, treated with hydroquinone, dried over magnesium sulfate, and concentrated.

reactant | propargylmagnesium bromide | 0.50 moles | C(C#C)[Mg]Br
reactant | ethyl valerate | 0.50 moles | C(CCCC)(=O)OCC | C7H14O2
solvent | ether | CCOCC | C4H10O
product | 1,2-Octadien-4-one | C=C=CC(CCCC)=O | C8H12O
